US03947458
A solution of cyclohexane (0.25 mole), piperidine (0.5 mole), water (0.5 mole) and Fe(CO)5 (0.025 mole) in 60 ml N-methylpyrrolidine and rhodium hydroxide [Rh(OH)3 ] (5×10-3 mole) were charged into a stainless steel rocking autoclave of 0.5 liter capacity. The reaction chamber was pressurized by carbon monoxide at 140 atm and heated at 170° for 3 hours. On completion of the reaction period, the pressure vessel was allowed to cool and the gases vented. The reaction mixture was taken out and scrubbed 2-3 times with water in order to remove the unreacted secondary amine, its N-formyl derivative (formed in a side reaction), and the solvent, all of which are water-soluble. The aqueous phase was extracted once with pentane. The organic phase and the pentane extract were combined and dried over sodium sulfate and fractionally distilled to yield N-hexahydrobenzylpiperidine (ca. 80% yield), the product being unequivocally identified by gas-liquid chromatographic and spectroscopic (ir, nmr) comparison with an authentic sample.

reactant | cyclohexane | 0.25 mole | C1CCCCC1 | C6H12
reactant | piperidine | 0.5 mole | N1CCCCC1 | C5H11N
reactant | water | 0.5 mole | O | H2O
reactant | carbon monoxide | [C]=O | CO
reactant | N-methylpyrrolidine | 60 ml | CN1CCCC1 | C5H11N
catalyst | rhodium hydroxide | 5×10-3 mole | [OH-].[Rh+3].[OH-].[OH-]
product | N-hexahydrobenzylpiperidine | ca. 80% yield | C(C1CCCCC1)N1CCCCC1 | C12H23N
